US06110934
N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-4-tert-butyl-2-methoxy-5-chloro-benzamide, Hydrochloride
The title compound was prepared in an analogous manner to Example 1 from 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline and 4-tert-butyl-2-methoxy-5-chlorobenzoic acid.

reactant | 5-amino-2-methyl-1,2,3,4-tetrahydroisoquinoline | NC1=C2CCN(CC2=CC=C1)C | C10H14N2
reactant | 4-tert-butyl-2-methoxy-5-chlorobenzoic acid | C(C)(C)(C)C1=CC(=C(C(=O)O)C=C1Cl)OC | C12H15ClO3
product | N-(2-Methyl-1,2,3,4-tetrahydroisoquinolin-5-yl)-4-tert-butyl-2-methoxy-5-chloro-benzamide, Hydrochloride | Cl.CN1CC2=CC=CC(=C2CC1)NC(C1=C(C=C(C(=C1)Cl)C(C)(C)C)OC)=O | InChI=1S/C22H27ClN2O2.ClH/c1-22(2,3)17-12-20(27-5)16(11-18(17)23)21(26)24-19-8-6-7-14-13-25(4)10-9-15(14)19;/h6-8,11-12H,9-10,13H2,1-5H3,(H,24,26);1H
